T1 (net8 vdd! vdd! 0) pfet L=2.45E-6 W=9.35E-6
C2 (0 net9) C=3.7E-9
R3 (net9 0) R=6.0E0
C4 (net8 net5) C=8.1E-8
R5 (net16 net8) R=4.0E6
R6 ( net19 net4)  R=8.3E3
T7 ( net4 net4 0 0)  nfet  L=1.34E-6 W=2.78E-6
T8 ( net6 net4 0 0)  nfet  L=1.34E-6 W=2.78E-6
T9 (net20 net12 net12 0) nfet L=8.68E-6 W=0.58E-6
C10 (net16 net6) C=9.6E-6
T11 (net11 net12 net12 0) nfet L=4.16E-6 W=4.80E-6
C12 (net9 net10) C=5.2E-12
T13 ( net7 net7 vdd! vdd!)  pfet  L=4.31E-6 W=3.48E-6
T14 ( net9 net7 vdd! vdd!)  pfet  L=4.31E-6 W=3.48E-6
R15 ( net9 net8)  R=2.4E5
T16 (net8 net5 net5 0) pfet L=3.67E-6 W=0.92E-6
T17 (net19 net7 net7 0) pfet L=6.94E-6 W=4.88E-6
C18 (net1 vdd!) C=9.9E-7
R19 (net20 net10) R=5.1E2
T20 (net18 net13 net13 0) pfet L=7.20E-6 W=5.05E-6
C21 (net5 net19) C=4.4E-7
R22 (net6 net14) R=4.1E1
R23 (net1 net2) R=4.8E5
R24 (net12 net2) R=2.2E6
C25 (net7 net6) C=2.9E-12
R26 (net18 net6) R=1.0E5
R27 (net7 0) R=4.8E3
C28 (net15 net10) C=9.7E-5
C29 (net13 net18) C=3.4E-9
T30 (net1 net17 net17 0) nfet L=1.94E-6 W=2.96E-6
T31 (net20 net2 net2 0) pfet L=2.79E-6 W=1.93E-6
T32 (net5 net16 net16 0) pfet L=2.85E-6 W=6.72E-6
R33 (net6 net11) R=2.5E1
T34 (net17 net7 net7 0) pfet L=8.75E-6 W=7.19E-6
T35 (net8 net12 net12 0) pfet L=9.85E-6 W=7.30E-6
T36 (net16 net2 net2 0) pfet L=7.76E-6 W=3.00E-6
C37 (net10 vdd!) C=4.8E-6
R38 (net7 net13) R=2.8E1
T39 (net19 0 0 0) nfet L=6.81E-6 W=6.32E-6
C40 (net19 net12) C=2.9E-6
T41 (net3 net17 net17 0) pfet L=8.35E-6 W=4.70E-6
C42 (net7 net15) C=3.9E-11
C43 (net13 net6) C=2.7E-6
R44 (net1 net18) R=5.9E6
C45 (net10 net20) C=6.7E-11
R46 (net7 net12) R=8.5E1
R47 (net17 net8) R=5.1E3
C48 (net7 net19) C=9.1E-7
R49 (net15 net18) R=1.7E3
T50 (net8 vdd! vdd! 0) nfet L=2.37E-6 W=2.25E-6
R51 (net10 net11) R=4.8E3
T52 (net10 net18 net18 0) pfet L=6.92E-6 W=1.83E-6
C53 (0 net13) C=5.2E-6
T54 (net16 net6 net6 0) nfet L=0.66E-6 W=0.10E-6
C55 (net2 net12) C=7.5E-14
R56 (net20 net13) R=5.3E3
T57 (net15 net5 net5 0) pfet L=0.36E-6 W=9.47E-6
C58 (net20 net5) C=6.3E-7
T59 (0 net8 net8 0) nfet L=0.43E-6 W=0.91E-6
C60 (net18 net10) C=9.8E-8
T61 (net15 net2 net2 0) nfet L=8.01E-6 W=0.13E-6
T62 (net16 net8 net8 0) pfet L=3.39E-6 W=8.72E-6
R63 (net14 net5) R=3.1E2
T64 (net3 net6 net6 0) nfet L=8.37E-6 W=5.63E-6
C65 (net19 net17) C=9.2E-7
R66 (net12 net18) R=1.6E1
T67 (net11 net12 net12 0) pfet L=7.12E-6 W=9.51E-6
T68 (net8 vdd! vdd! 0) nfet L=2.17E-6 W=4.16E-6
C69 (net19 net7) C=2.6E-11
T70 (vdd! net2 net2 0) nfet L=2.58E-6 W=3.77E-6
T71 (0 net6 net6 0) pfet L=4.01E-6 W=2.44E-6
T72 (net14 net14 net14 0) nfet L=4.67E-6 W=0.98E-6
T73 (net8 net18 net18 0) nfet L=7.50E-6 W=3.16E-6
C74 (net1 net12) C=7.0E-10
T75 (vdd! net12 net12 0) nfet L=5.29E-6 W=8.04E-6
C76 (net18 net1) C=1.5E-7
T77 (net7 net5 net5 0) pfet L=4.70E-6 W=3.90E-6
C78 (net14 0) C=5.1E-14
R79 (net15 net6) R=2.4E3
T80 (net11 net11 net11 0) pfet L=9.29E-6 W=4.65E-6
C81 (net2 vdd!) C=1.3E-8
C82 (net16 net5) C=6.7E-7
T83 (net10 net18 net18 0) nfet L=4.50E-6 W=9.01E-6
R84 (net2 net16) R=1.3E4
T85 (net14 net16 net16 0) nfet L=5.21E-6 W=7.90E-6
C86 (net1 net16) C=9.8E-12
R87 (net15 net11) R=5.7E1
C88 (net18 net3) C=7.7E-13
C89 (net2 net20) C=2.8E-12
R90 (net7 net10) R=1.5E6
R91 (net20 net18) R=3.1E3
C92 (net18 net2) C=3.3E-5
C93 (net3 net15) C=5.8E-6
T94 (net18 net12 net12 0) nfet L=1.34E-6 W=7.15E-6
C95 (net16 net19) C=1.9E-6
C96 (net3 net11) C=7.3E-5
R97 (net18 net5) R=1.5E0
T98 (net14 net1 net1 0) pfet L=2.07E-6 W=7.56E-6
R99 (net18 net12) R=1.2E4
R100 (net3 net1) R=0.1E5
T101 (net5 net8 net8 0) pfet L=0.35E-6 W=2.36E-6
C102 (net17 net14) C=1.0E-5

