R1 ( net58 net20)  R=6.7E1
T2 ( net20 net5 0 0)  nfet  L=9.39E-6 W=8.43E-6
T3 ( net95 net5 0 0)  nfet  L=9.39E-6 W=8.43E-6
T4 ( net48 net20 net95 0)  nfet  L=9.39E-6 W=8.43E-6
R5 (net91 net2) R=2.4E2
T6 ( net3 net3 vdd! vdd!)  pfet  L=9.79E-6 W=7.95E-6
T7 ( net1 net3 vdd! vdd!)  pfet  L=9.79E-6 W=7.95E-6
R8 ( net1 net63)  R=5.7E1
R9 (0 net60) R=4.9E0
C10 (net3 net70) C=1.5E-7
C11 (net39 net62) C=4.5E-8
T12 (net77 net78 net78 0) pfet L=1.47E-6 W=1.51E-6
T13 (net31 net80 net80 0) nfet L=1.87E-6 W=6.18E-6
C14 (net7 net49) C=6.5E-7
R15 (net49 net72) R=2.4E0
T16 (net49 net27 net27 0) nfet L=8.41E-6 W=6.62E-6
T17 (net86 net34 net34 0) pfet L=6.77E-6 W=0.10E-6
C18 (net56 net87) C=8.4E-14
T19 (net47 0 0 0) nfet L=6.98E-6 W=9.94E-6
C20 (net82 net15) C=3.3E-7
R21 (net39 net55) R=0.1E4
R22 (net77 net45) R=4.2E3
T23 (net93 net2 net2 0) pfet L=2.82E-6 W=1.24E-6
R24 (net75 net41) R=8.9E4
T25 (net10 net47 net47 0) nfet L=1.47E-6 W=8.70E-6
R26 (net41 net42) R=9.2E0
C27 (net63 net27) C=7.2E-8
C28 (net86 net37) C=8.0E-6
C29 (net9 net80) C=7.1E-8
R30 (net73 net36) R=6.2E5
C31 (net80 0) C=1.9E-12
R32 (net69 net22) R=2.2E5
C33 (net7 net67) C=8.5E-11
R34 (net23 net31) R=2.9E6
T35 (net15 vdd! vdd! 0) pfet L=3.83E-6 W=6.69E-6
R36 (net34 net79) R=6.2E0
T37 (net3 net77 net77 0) nfet L=3.82E-6 W=6.89E-6
T38 (vdd! net48 net48 0) pfet L=0.81E-6 W=9.60E-6
T39 (net24 net52 net52 0) pfet L=5.36E-6 W=8.68E-6
T40 (net10 net99 net99 0) pfet L=3.38E-6 W=3.62E-6
T41 (net6 net33 net33 0) nfet L=7.94E-6 W=9.88E-6
T42 (net55 net76 net76 0) nfet L=7.36E-6 W=2.64E-6
C43 (net11 net60) C=6.0E-13
T44 (net54 net17 net17 0) pfet L=3.58E-6 W=1.05E-6
T45 (net29 net2 net2 0) nfet L=4.58E-6 W=7.69E-6
T46 (net53 net61 net61 0) nfet L=9.28E-6 W=6.94E-6
R47 (net98 net30) R=3.5E5
T48 (net60 net97 net97 0) pfet L=4.82E-6 W=5.84E-6
R49 (net58 0) R=9.1E0
T50 (net50 net57 net57 0) nfet L=2.71E-6 W=8.42E-6
T51 (net23 net48 net48 0) nfet L=1.32E-6 W=0.96E-6
R52 (net77 net68) R=5.4E4
T53 (net83 net54 net54 0) nfet L=7.88E-6 W=6.70E-6
T54 (net52 net71 net71 0) pfet L=3.91E-6 W=2.92E-6
R55 (net35 0) R=5.8E5
R56 (vdd! net50) R=2.1E4
T57 (net82 net64 net64 0) pfet L=0.11E-6 W=0.98E-6
T58 (net4 net36 net36 0) pfet L=0.29E-6 W=8.01E-6
C59 (net80 net24) C=3.1E-10
C60 (net10 net34) C=9.5E-10
T61 (net51 net21 net21 0) pfet L=5.80E-6 W=7.97E-6
T62 (net59 net99 net99 0) pfet L=9.21E-6 W=2.52E-6
T63 (vdd! 0 0 0) pfet L=1.28E-6 W=4.07E-6
T64 (net18 net59 net59 0) pfet L=3.85E-6 W=1.04E-6
T65 (net56 net16 net16 0) pfet L=5.10E-6 W=8.66E-6
R66 (net77 net59) R=4.7E6
T67 (net63 net96 net96 0) nfet L=5.04E-6 W=3.79E-6
C68 (net83 net79) C=3.1E-13
T69 (net90 net90 net90 0) nfet L=2.49E-6 W=9.40E-6
C70 (net72 vdd!) C=0.5E-9
R71 (net58 net24) R=6.5E2
T72 (net55 net81 net81 0) nfet L=5.07E-6 W=4.11E-6
T73 (net68 net48 net48 0) pfet L=5.52E-6 W=2.56E-6
R74 (0 net42) R=5.6E3
T75 (net27 net14 net14 0) nfet L=5.26E-6 W=0.66E-6
R76 (net56 net72) R=6.2E5
C77 (net63 vdd!) C=2.9E-13
T78 (vdd! net34 net34 0) nfet L=8.15E-6 W=5.98E-6
R79 (net42 net69) R=3.8E5
R80 (net66 net27) R=9.5E0
C81 (0 net4) C=3.6E-7
T82 (net9 vdd! vdd! 0) pfet L=4.12E-6 W=6.10E-6
C83 (net55 net58) C=9.9E-12
T84 (net89 net34 net34 0) nfet L=5.83E-6 W=3.67E-6
R85 (net37 net22) R=1.4E6
R86 (0 net42) R=4.4E2
T87 (net38 net92 net92 0) nfet L=1.34E-6 W=3.19E-6
R88 (net62 net65) R=0.6E5
T89 (net50 net50 net50 0) pfet L=8.13E-6 W=9.00E-6
T90 (net65 net77 net77 0) nfet L=1.58E-6 W=7.36E-6
R91 (net85 net6) R=8.5E1
C92 (net66 net13) C=9.6E-9
T93 (net46 net93 net93 0) nfet L=2.48E-6 W=7.11E-6
T94 (vdd! net31 net31 0) nfet L=6.88E-6 W=7.02E-6
C95 (net90 net35) C=9.9E-13
T96 (net76 net38 net38 0) pfet L=1.41E-6 W=5.96E-6
R97 (net33 net92) R=6.4E3
T98 (net84 net23 net23 0) nfet L=2.36E-6 W=0.36E-6
C99 (net19 net4) C=0.4E-8
R100 (net43 net45) R=7.7E6
T101 (net35 net21 net21 0) pfet L=1.57E-6 W=6.16E-6
T102 (net74 net3 net3 0) pfet L=8.27E-6 W=3.84E-6
C103 (net42 net76) C=3.8E-7
C104 (vdd! net23) C=2.2E-5
C105 (net12 net37) C=1.9E-13
T106 (net76 net74 net74 0) pfet L=1.09E-6 W=3.08E-6
R107 (net37 net18) R=5.7E4
T108 (net36 net71 net71 0) pfet L=4.49E-6 W=6.27E-6
T109 (0 net60 net60 0) pfet L=3.93E-6 W=2.31E-6
T110 (net44 net45 net45 0) nfet L=3.34E-6 W=2.05E-6
T111 (net60 net49 net49 0) nfet L=0.65E-6 W=5.66E-6
T112 (net85 net16 net16 0) pfet L=6.71E-6 W=8.71E-6
C113 (net56 net73) C=0.2E-11
R114 (net31 net36) R=8.9E1
T115 (net9 net14 net14 0) nfet L=7.86E-6 W=9.72E-6
R116 (net42 vdd!) R=1.3E5
T117 (net90 net47 net47 0) pfet L=0.84E-6 W=4.91E-6
T118 (net14 net79 net79 0) pfet L=2.57E-6 W=6.15E-6
C119 (net34 net78) C=9.0E-12
C120 (net52 net91) C=1.6E-10
T121 (net97 net81 net81 0) nfet L=4.11E-6 W=4.64E-6
T122 (net34 net76 net76 0) nfet L=8.72E-6 W=8.20E-6
C123 (net47 net81) C=6.8E-12
R124 (vdd! net74) R=0.3E0
C125 (net10 net53) C=8.0E-9
T126 (net3 net73 net73 0) nfet L=3.25E-6 W=2.23E-6
T127 (net32 net50 net50 0) pfet L=8.83E-6 W=2.70E-6
T128 (net43 net61 net61 0) nfet L=9.44E-6 W=2.90E-6
T129 (vdd! 0 0 0) pfet L=1.02E-6 W=3.18E-6
T130 (net77 net15 net15 0) pfet L=6.94E-6 W=9.76E-6
C131 (net91 net32) C=1.9E-6
T132 (net82 net70 net70 0) pfet L=7.06E-6 W=3.99E-6
C133 (net49 net29) C=6.8E-13
R134 (net60 net82) R=8.9E2
T135 (net82 vdd! vdd! 0) nfet L=5.84E-6 W=9.54E-6
R136 (net96 net91) R=3.9E5
T137 (net63 net6 net6 0) pfet L=0.65E-6 W=5.93E-6
R138 (net73 net100) R=0.9E0
C139 (net65 net66) C=4.0E-12
C140 (net99 net47) C=9.2E-13
R141 (net93 net4) R=4.0E4
R142 (net44 net59) R=0.9E4
T143 (net17 vdd! vdd! 0) nfet L=8.49E-6 W=5.52E-6
R144 (net72 net84) R=9.0E4
C145 (net85 net89) C=1.6E-9
C146 (net13 net6) C=6.5E-9
T147 (net97 net39 net39 0) nfet L=6.07E-6 W=8.56E-6
C148 (net52 net35) C=4.2E-12

