R1 (net13 net12) R=3.9E3
R2 ( net10 net4)  R=2.8E0
T3 ( net4 net4 vdd! vdd!)  pfet  L=6.23E-6 W=5.65E-6
T4 ( net10 net4 vdd! vdd!)  pfet  L=6.23E-6 W=5.65E-6
C5 (net17 net8) C=9.8E-12
T6 (net13 net10 net10 0) pfet L=0.78E-6 W=3.11E-6
R7 ( net7 net19)  R=5.3E6
T8 ( net19 net19 net18 0)  nfet  L=6.07E-6 W=3.28E-6
T9 ( net18 net6 0 0)  nfet  L=6.07E-6 W=3.28E-6
T10 ( net6 net6 0 0)  nfet  L=6.07E-6 W=3.28E-6
T11 ( 0 net19 net6 0)  nfet  L=6.07E-6 W=3.28E-6
R12 (net8 net1) R=7.9E5
T13 (net10 net5 net5 0) nfet L=2.21E-6 W=3.72E-6
R14 (net9 net10) R=6.5E2
T15 (net1 net8 net8 0) pfet L=3.06E-6 W=5.40E-6
T16 (net3 net14 net14 0) pfet L=9.31E-6 W=5.75E-6
R17 (net8 net3) R=2.3E5
R18 (net10 vdd!) R=1.4E4
C19 (vdd! net7) C=9.4E-8
T20 (net9 net5 net5 0) pfet L=4.74E-6 W=4.05E-6
C21 (net15 net3) C=2.2E-10
T22 (net17 net8 net8 0) nfet L=1.49E-6 W=9.11E-6
C23 (0 net2) C=7.2E-5
T24 (net15 net8 net8 0) pfet L=0.96E-6 W=7.80E-6
T25 (vdd! net3 net3 0) pfet L=7.99E-6 W=6.19E-6
T26 (net11 net14 net14 0) pfet L=4.81E-6 W=1.55E-6
T27 (net12 vdd! vdd! 0) pfet L=4.96E-6 W=2.51E-6
C28 (net8 net16) C=1.9E-9
T29 (net1 net17 net17 0) pfet L=6.24E-6 W=0.45E-6
T30 (net11 net7 net7 0) pfet L=1.37E-6 W=1.12E-6
T31 (net3 net13 net13 0) nfet L=8.16E-6 W=0.71E-6
C32 (net17 vdd!) C=4.1E-6
C33 (0 net13) C=6.0E-7
C34 (net14 net17) C=8.6E-10
R35 (net16 net17) R=2.9E5
R36 (net9 net10) R=4.4E2
C37 (net14 net2) C=9.8E-12
T38 (net3 net9 net9 0) pfet L=4.20E-6 W=4.05E-6
T39 (net13 vdd! vdd! 0) nfet L=0.44E-6 W=5.66E-6
T40 (net11 net14 net14 0) pfet L=3.34E-6 W=4.25E-6
T41 (net3 net14 net14 0) nfet L=3.04E-6 W=4.28E-6
T42 (net8 net8 net8 0) nfet L=5.23E-6 W=7.52E-6
R43 (net11 net2) R=6.5E3
T44 (net16 0 0 0) pfet L=4.16E-6 W=7.87E-6
R45 (net15 net17) R=6.0E1
R46 (net17 net11) R=4.7E1
T47 (net8 0 0 0) pfet L=2.75E-6 W=5.96E-6
T48 (net17 0 0 0) nfet L=0.34E-6 W=4.46E-6
R49 (net17 net3) R=2.3E0
C50 (net14 net10) C=1.4E-13
R51 (net16 vdd!) R=0.3E4
C52 (net13 net15) C=4.4E-8
C53 (net8 net17) C=5.9E-6
T54 (net7 net11 net11 0) pfet L=7.79E-6 W=1.16E-6
T55 (net11 net11 net11 0) nfet L=1.36E-6 W=9.57E-6
C56 (net11 net9) C=3.1E-14
R57 (vdd! net14) R=5.1E3
C58 (net16 net14) C=8.6E-8
T59 (net15 net11 net11 0) pfet L=0.35E-6 W=5.01E-6
R60 (net9 net5) R=9.4E2
C61 (net3 net13) C=3.8E-13
R62 (0 net2) R=7.3E3
T63 (net5 net16 net16 0) nfet L=0.49E-6 W=0.82E-6
R64 (net9 net1) R=1.5E4
C65 (net11 net17) C=2.8E-10
T66 (net9 net8 net8 0) nfet L=2.73E-6 W=4.10E-6
T67 (net15 net12 net12 0) nfet L=2.32E-6 W=1.13E-6
R68 (net9 net16) R=1.0E0
T69 (net9 net12 net12 0) pfet L=1.60E-6 W=5.42E-6
C70 (net2 vdd!) C=4.8E-13
T71 (net5 net17 net17 0) nfet L=9.73E-6 W=7.43E-6
T72 (net16 net14 net14 0) nfet L=3.49E-6 W=9.81E-6
T73 (net10 net3 net3 0) pfet L=0.34E-6 W=6.07E-6
C74 (net12 net5) C=0.9E-7
C75 (net1 net5) C=7.3E-13
R76 (net7 net12) R=3.4E5
C77 (net17 net10) C=8.3E-6
R78 (0 net5) R=9.6E4
R79 (net7 net15) R=1.2E4
C80 (net1 net9) C=1.2E-13
R81 (0 vdd!) R=9.8E5
T82 (net11 net17 net17 0) pfet L=5.97E-6 W=2.68E-6
C83 (net16 net14) C=4.4E-9
T84 (net16 net16 net16 0) nfet L=8.36E-6 W=3.44E-6
T85 (net10 net17 net17 0) nfet L=1.82E-6 W=1.08E-6
T86 (net17 net8 net8 0) nfet L=9.25E-6 W=6.34E-6
T87 (net3 net5 net5 0) pfet L=6.30E-6 W=8.31E-6
T88 (net2 net17 net17 0) nfet L=5.29E-6 W=8.44E-6
R89 (net11 net8) R=9.1E6
C90 (net13 net2) C=4.2E-11
T91 (net15 net2 net2 0) pfet L=3.14E-6 W=3.97E-6
T92 (net2 net12 net12 0) nfet L=5.08E-6 W=4.59E-6
C93 (net1 net16) C=7.4E-5
C94 (net2 net8) C=3.0E-6
T95 (net14 0 0 0) nfet L=0.41E-6 W=1.67E-6
R96 (net12 net1) R=8.6E0
R97 (0 net13) R=7.9E2
R98 (net16 net2) R=0.6E0
R99 (net7 net5) R=0.8E5
T100 (net9 vdd! vdd! 0) pfet L=2.72E-6 W=4.33E-6
T101 (net16 net2 net2 0) nfet L=8.43E-6 W=5.55E-6
T102 (net2 net1 net1 0) nfet L=2.84E-6 W=7.40E-6
C103 (net9 net2) C=9.1E-8
T104 (net9 net14 net14 0) pfet L=2.63E-6 W=0.49E-6
R105 (net8 net16) R=0.9E1
R106 (net15 0) R=8.1E6
T107 (net13 net3 net3 0) nfet L=5.81E-6 W=6.82E-6
R108 (net1 net14) R=9.4E5
T109 (net11 net5 net5 0) nfet L=7.94E-6 W=7.96E-6
T110 (net17 0 0 0) pfet L=1.06E-6 W=2.90E-6
T111 (0 net17 net17 0) pfet L=9.04E-6 W=9.52E-6
T112 (net14 net15 net15 0) nfet L=4.40E-6 W=1.23E-6
T113 (net8 net12 net12 0) nfet L=8.65E-6 W=0.82E-6
T114 (net8 net3 net3 0) pfet L=4.16E-6 W=6.97E-6
T115 (net13 net5 net5 0) pfet L=3.65E-6 W=2.65E-6
C116 (net16 net1) C=0.5E-8
T117 (net16 net9 net9 0) nfet L=8.31E-6 W=1.93E-6
T118 (net1 net9 net9 0) nfet L=8.68E-6 W=0.52E-6
C119 (net1 0) C=5.1E-11
C120 (net17 0) C=4.4E-10
T121 (net15 net7 net7 0) pfet L=4.44E-6 W=3.73E-6
R122 (net17 net9) R=3.3E2
R123 (net12 net1) R=9.5E0
T124 (net12 net1 net1 0) pfet L=4.52E-6 W=7.77E-6
C125 (net9 net3) C=4.0E-12
R126 (net7 net10) R=5.2E6
R127 (net9 net12) R=7.8E1
C128 (net9 net13) C=2.6E-8
T129 (net13 net9 net9 0) pfet L=2.51E-6 W=1.26E-6
C130 (net7 net15) C=8.3E-8
T131 (net1 net10 net10 0) nfet L=0.50E-6 W=0.83E-6
T132 (net11 net9 net9 0) pfet L=0.61E-6 W=3.91E-6
R133 (vdd! net13) R=2.8E5
T134 (net11 net7 net7 0) pfet L=7.40E-6 W=8.82E-6
C135 (net7 net3) C=3.3E-10
R136 (net16 net5) R=8.6E0
R137 (net10 net3) R=3.3E4
R138 (net17 net13) R=2.2E6
C139 (net10 net11) C=1.9E-7
R140 (net17 net9) R=4.3E4
T141 (net1 net13 net13 0) nfet L=4.07E-6 W=3.82E-6
C142 (net8 net1) C=1.7E-8
T143 (net3 net1 net1 0) nfet L=1.68E-6 W=1.99E-6
T144 (net17 net13 net13 0) nfet L=9.70E-6 W=8.27E-6
R145 (net7 net5) R=3.6E3
C146 (net13 net8) C=8.7E-13
C147 (net8 vdd!) C=0.2E-5
T148 (net13 net12 net12 0) pfet L=1.58E-6 W=8.01E-6
T149 (net12 net1 net1 0) nfet L=7.21E-6 W=3.47E-6
C150 (net1 net2) C=3.9E-5
R151 (net10 net11) R=4.9E0
C152 (net8 net17) C=8.3E-7
C153 (net12 net15) C=3.2E-11
C154 (net14 net11) C=9.8E-9
T155 (net11 net8 net8 0) nfet L=0.62E-6 W=0.17E-6
C156 (net14 vdd!) C=3.3E-9
C157 (net3 net16) C=3.2E-8
R158 (net12 0) R=2.7E5
C159 (net1 net14) C=3.7E-10
T160 (net2 net11 net11 0) pfet L=6.00E-6 W=1.81E-6
R161 (net8 net10) R=0.4E5
T162 (net11 net8 net8 0) nfet L=5.33E-6 W=9.19E-6
T163 (net2 net11 net11 0) nfet L=4.68E-6 W=7.89E-6
C164 (net10 net7) C=7.6E-14
T165 (net14 net15 net15 0) pfet L=1.43E-6 W=2.63E-6
T166 (net3 net10 net10 0) pfet L=5.42E-6 W=1.87E-6
C167 (net1 net9) C=2.0E-6
C168 (vdd! net12) C=3.8E-6
T169 (net9 net13 net13 0) nfet L=6.53E-6 W=4.00E-6
C170 (net15 net1) C=6.5E-9
T171 (net1 net3 net3 0) nfet L=2.76E-6 W=9.00E-6
R172 (net3 net16) R=6.4E4
T173 (0 vdd! vdd! 0) pfet L=7.62E-6 W=4.30E-6
R174 (vdd! net8) R=0.5E2
T175 (net3 0 0 0) nfet L=1.97E-6 W=9.98E-6
T176 (net13 net14 net14 0) nfet L=0.94E-6 W=0.56E-6
R177 (vdd! net15) R=6.4E4
T178 (net16 net3 net3 0) nfet L=4.66E-6 W=8.90E-6

