R1 ( net29 net13)  R=9.5E4
T2 ( net13 net6 0 0)  nfet  L=3.11E-6 W=8.41E-6
T3 ( net20 net6 0 0)  nfet  L=3.11E-6 W=8.41E-6
T4 ( net1 net13 net20 0)  nfet  L=3.11E-6 W=8.41E-6
R5 (net12 net5) R=6.5E5
R6 ( net8 net9)  R=1.9E0
T7 ( net9 net9 net28 0)  nfet  L=7.86E-6 W=5.03E-6
T8 ( net28 net2 0 0)  nfet  L=7.86E-6 W=5.03E-6
T9 ( net2 net2 0 0)  nfet  L=7.86E-6 W=5.03E-6
T10 ( net29 net9 net2 0)  nfet  L=7.86E-6 W=5.03E-6
T11 (net32 net10 net10 0) nfet L=9.47E-6 W=4.46E-6
T12 (net19 net24 net24 0) nfet L=8.22E-6 W=6.11E-6
T13 (net8 net32 net32 0) pfet L=3.68E-6 W=1.78E-6
R14 (net36 net40) R=3.6E0
T15 (net15 net31 net31 0) nfet L=5.88E-6 W=8.37E-6
R16 (net14 net22) R=6.9E2
T17 (net34 net19 net19 0) nfet L=5.75E-6 W=9.15E-6
T18 (net41 vdd! vdd! 0) nfet L=8.13E-6 W=2.13E-6
C19 (net11 net27) C=8.5E-12
C20 (net3 net8) C=8.5E-10
R21 (net22 net38) R=5.8E1
C22 (net30 net1) C=7.2E-6
C23 (net29 net3) C=2.9E-5
C24 (net37 net10) C=4.1E-5
C25 (net7 net18) C=0.6E-9
T26 (net15 net5 net5 0) nfet L=2.50E-6 W=3.37E-6
R27 (vdd! net12) R=6.7E4
T28 (net34 net17 net17 0) nfet L=4.21E-6 W=1.91E-6
T29 (net22 net38 net38 0) nfet L=3.76E-6 W=5.68E-6
R30 (net40 net37) R=4.2E5
R31 (net8 vdd!) R=1.4E5
C32 (net18 net7) C=6.7E-5
R33 (net34 net10) R=9.3E4
C34 (net36 net25) C=6.1E-9
R35 (net36 net27) R=7.6E0
C36 (net21 net35) C=9.0E-6
C37 (net34 net36) C=1.1E-8
T38 (net15 net12 net12 0) pfet L=7.58E-6 W=9.90E-6
R39 (net34 net14) R=3.6E4
C40 (net41 net25) C=2.2E-9
C41 (net32 net19) C=1.0E-8
R42 (net25 net34) R=5.7E1
T43 (net3 net1 net1 0) pfet L=0.29E-6 W=6.42E-6
T44 (net3 net34 net34 0) nfet L=8.91E-6 W=6.47E-6
C45 (vdd! net14) C=6.0E-12
C46 (net17 net21) C=7.7E-8
T47 (net39 net40 net40 0) pfet L=6.20E-6 W=0.20E-6
R48 (net32 net16) R=6.9E6
T49 (net8 net5 net5 0) nfet L=5.23E-6 W=3.44E-6
R50 (vdd! net36) R=3.0E4
C51 (net30 net1) C=7.7E-10
C52 (net27 net39) C=0.9E-11
T53 (net32 net17 net17 0) nfet L=7.81E-6 W=1.14E-6
C54 (net26 net21) C=8.9E-14
T55 (net3 net1 net1 0) nfet L=1.26E-6 W=5.82E-6
R56 (net24 net34) R=9.5E6
C57 (net19 net40) C=8.1E-9
T58 (net16 net38 net38 0) pfet L=9.33E-6 W=4.60E-6
C59 (net3 net37) C=6.7E-14
C60 (net16 net33) C=8.5E-13
T61 (net12 net1 net1 0) nfet L=4.76E-6 W=1.25E-6
T62 (0 net24 net24 0) pfet L=6.06E-6 W=7.33E-6
C63 (net8 net25) C=8.7E-12
R64 (net32 0) R=9.4E6
T65 (net1 net19 net19 0) nfet L=8.98E-6 W=2.78E-6
T66 (net27 net37 net37 0) pfet L=9.47E-6 W=2.00E-6
R67 (net15 net30) R=5.4E0
R68 (net35 net17) R=9.6E0
T69 (net41 net23 net23 0) nfet L=3.64E-6 W=4.55E-6
C70 (net12 net25) C=3.4E-10
T71 (net34 net16 net16 0) pfet L=2.71E-6 W=4.48E-6
R72 (net38 net29) R=3.3E2
T73 (net12 net14 net14 0) nfet L=5.15E-6 W=8.18E-6
R74 (net39 net19) R=6.8E2
T75 (net38 net16 net16 0) pfet L=9.03E-6 W=5.28E-6
R76 (net7 net21) R=9.3E0
C77 (net17 net19) C=9.0E-6
T78 (net8 net33 net33 0) pfet L=9.47E-6 W=10.00E-6
C79 (net1 net21) C=1.3E-11
C80 (net3 net31) C=9.5E-9
C81 (net19 net11) C=3.6E-8
T82 (net26 net36 net36 0) pfet L=7.49E-6 W=2.60E-6
R83 (net26 net31) R=4.6E4
R84 (net16 net24) R=9.0E3
R85 (net1 net29) R=6.4E0
T86 (net4 0 0 0) nfet L=5.21E-6 W=8.65E-6
R87 (vdd! net15) R=3.8E5
T88 (net21 net19 net19 0) pfet L=3.35E-6 W=2.08E-6
T89 (net29 net14 net14 0) nfet L=5.04E-6 W=8.90E-6
T90 (net1 net16 net16 0) nfet L=7.58E-6 W=0.44E-6
C91 (net34 net27) C=3.5E-5
T92 (net40 net4 net4 0) nfet L=0.32E-6 W=4.13E-6
T93 (net4 net1 net1 0) nfet L=5.43E-6 W=3.21E-6
R94 (net8 net1) R=5.2E0
T95 (net23 net29 net29 0) nfet L=3.35E-6 W=2.59E-6
R96 (net40 net15) R=0.9E4
R97 (net40 0) R=3.5E1
T98 (net34 net21 net21 0) pfet L=8.68E-6 W=2.14E-6
R99 (0 net19) R=1.1E0
C100 (net24 net32) C=2.4E-5
R101 (net18 net10) R=9.5E1
R102 (net18 net16) R=6.3E2
T103 (0 net24 net24 0) pfet L=5.63E-6 W=1.33E-6
T104 (net36 vdd! vdd! 0) pfet L=9.12E-6 W=0.74E-6
T105 (net38 net23 net23 0) pfet L=9.76E-6 W=6.77E-6
R106 (0 net15) R=1.2E3
C107 (net27 net7) C=5.6E-11
C108 (net22 net39) C=2.5E-9
R109 (net31 net7) R=0.6E0
C110 (net8 net38) C=2.6E-10
T111 (net17 net39 net39 0) pfet L=1.66E-6 W=0.93E-6
T112 (net23 net30 net30 0) nfet L=2.34E-6 W=7.76E-6
T113 (vdd! net22 net22 0) nfet L=7.26E-6 W=7.46E-6
T114 (net10 net14 net14 0) pfet L=7.57E-6 W=5.18E-6
T115 (net29 net29 net29 0) pfet L=6.17E-6 W=6.78E-6
T116 (net33 net3 net3 0) pfet L=5.76E-6 W=3.40E-6
T117 (net39 net40 net40 0) nfet L=9.24E-6 W=2.38E-6
R118 (net7 net29) R=8.9E5
R119 (0 net16) R=7.1E6
R120 (net29 net16) R=5.0E2
R121 (net1 net14) R=0.8E6
C122 (0 net3) C=4.8E-6
C123 (net34 net38) C=9.1E-14

