C1 (net17 net9) C=4.3E-5
R2 ( net7 net17)  R=1.5E2
T3 ( net17 net10 0 0)  nfet  L=4.85E-6 W=0.92E-6
T4 ( net16 net10 0 0)  nfet  L=4.85E-6 W=0.92E-6
T5 ( 0 net17 net16 0)  nfet  L=4.85E-6 W=0.92E-6
T6 (net4 net11 net11 0) pfet L=5.19E-6 W=5.22E-6
R7 (net2 net18) R=8.4E2
R8 (net18 net7) R=7.5E2
R9 ( net5 net8)  R=9.3E0
T10 ( net8 net4 vdd! vdd!)  pfet  L=2.68E-6 W=1.77E-6
T11 ( net14 net4 vdd! vdd!)  pfet  L=2.68E-6 W=1.77E-6
T12 ( 0 net8 net4 vdd!)  pfet  L=2.68E-6 W=1.77E-6
T13 (net11 net13 net13 0) pfet L=1.75E-6 W=2.00E-6
C14 (net11 net3) C=6.5E-8
T15 (net13 net9 net9 0) nfet L=3.99E-6 W=5.71E-6
C16 (net12 net15) C=4.8E-8
R17 (net2 net11) R=3.5E3
T18 (net13 net12 net12 0) pfet L=4.21E-6 W=9.69E-6
R19 (net9 net2) R=3.0E1
T20 (net18 net6 net6 0) pfet L=4.41E-6 W=1.23E-6
T21 (net1 net9 net9 0) nfet L=0.43E-6 W=1.40E-6
T22 (net13 net1 net1 0) nfet L=4.33E-6 W=8.42E-6
R23 (net6 net11) R=3.1E4
T24 (net3 net2 net2 0) nfet L=8.66E-6 W=9.21E-6
C25 (0 net12) C=6.0E-6
T26 (net14 net12 net12 0) nfet L=4.81E-6 W=8.86E-6
C27 (net6 net15) C=8.6E-14
T28 (net1 net3 net3 0) pfet L=7.93E-6 W=4.64E-6
T29 (net1 net9 net9 0) nfet L=4.12E-6 W=6.65E-6
T30 (net7 net15 net15 0) pfet L=0.16E-6 W=7.41E-6
T31 (net18 net14 net14 0) pfet L=3.27E-6 W=8.98E-6
C32 (net1 net5) C=4.0E-14
T33 (net13 net6 net6 0) pfet L=0.64E-6 W=5.46E-6
T34 (net15 net6 net6 0) nfet L=9.37E-6 W=5.94E-6
R35 (net9 net12) R=4.3E1
C36 (net18 net15) C=2.1E-13
T37 (0 0 0 0) pfet L=3.97E-6 W=2.60E-6
T38 (net12 net18 net18 0) nfet L=1.76E-6 W=9.40E-6
C39 (0 net9) C=7.9E-6
R40 (net6 net13) R=2.9E4
R41 (net12 net5) R=6.6E2
C42 (net11 net14) C=6.3E-6
R43 (net12 net6) R=5.4E0
T44 (net7 net9 net9 0) pfet L=8.21E-6 W=2.34E-6
T45 (net15 net9 net9 0) nfet L=2.07E-6 W=5.50E-6
T46 (net2 net5 net5 0) nfet L=7.21E-6 W=9.55E-6
R47 (net14 net13) R=8.1E6
R48 (net12 net13) R=2.5E5
T49 (net9 net1 net1 0) pfet L=9.53E-6 W=0.92E-6
R50 (net5 vdd!) R=0.9E2
C51 (0 net5) C=7.8E-7
R52 (vdd! net14) R=8.2E1

